US07598249B2
4-Quinolin-3-ylmethyl-piperazine-1-carboxylic acid pyrimidin-2-ylamide
The title compound was prepared from pyrimidin-2-yl-carbamic acid phenyl ester and 3-piperazin-1-ylmethyl-quinoline in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 8.72 (s, 1H), 8.10-8.02 (m, 1H), 8.43-8.41 (m, 2H), 7.69-7.66 (m, 2H), 7.50-7.40 (m, 2H), 6.82-7.70 (m, 1H), 3.81 (s, 2H), 3.42-3.38 (m, 4H), 2.41-2.36 (m, 4H).

reactant | pyrimidin-2-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NC=CC=N1)=O | C11H9N3O2
reactant | 3-piperazin-1-ylmethyl-quinoline | N1(CCNCC1)CC=1C=NC2=CC=CC=C2C1 | C14H17N3
product | 4-Quinolin-3-ylmethyl-piperazine-1-carboxylic acid pyrimidin-2-ylamide | N1=C(N=CC=C1)NC(=O)N1CCN(CC1)CC=1C=NC2=CC=CC=C2C1 | C19H20N6O
